US08580785B2
a) Preparation of 4-amino-2-azido-3-chloro-5-nitro-benzoic acid methyl ester
To a solution of 7 g (28.16 mmol) of 4-amino-3-chloro-2-fluoro-5-nitro-benzoic acid methyl ester (known from WO 03/077914) in 140 mL of DMF, 5.49 g (84.44 mmol) of sodium azide and 908 mg (2.82 mmol) of tetrabutyl ammonium bromide is added. Then the mixture is stirred and heated at 50° C. for 4 h. After cooling to ambient temperature, the mixture is diluted in EtOAc and washed with H2O (5 times). The organic phase is dried on Na2SO4, filtrated and evaporated. The crude compound (7.3 g, 26.88 mmol, 95%) obtained as a yellow solid is used without more purification in the next step. 1H-NMR (CDCl3, 300 MHz): ? ppm=3.95 (s, 3H), 8.82 (s, 1H).

reactant | 4-amino-3-chloro-2-fluoro-5-nitro-benzoic acid methyl ester | 28.16 mmol, 7 g | COC(C1=C(C(=C(C(=C1)[N+](=O)[O-])N)Cl)F)=O | C8H6ClFN2O4
reactant | sodium azide | 84.44 mmol, 5.49 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 140 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutyl ammonium bromide | 2.82 mmol, 908 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-amino-2-azido-3-chloro-5-nitro-benzoic acid methyl ester | 26.88 mmol, 7.3 g, 95% | COC(C1=C(C(=C(C(=C1)[N+](=O)[O-])N)Cl)N=[N+]=[N-])=O | C8H6ClN5O4
